US07767674B2
1-(5-tert-Butyl-2-methyl-2H-pyrazol-3-yl)-3-{4-[1-(benzoyl)-piperidin-4-yloxy]phenyl}urea
To an ice-cooled solution of 1-(5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-3-[4-(piperidin-4-yloxy)-phenyl]-urea (82.2 mg, 0.22 mmol), 1-hydroxybenzotriazole (HOBt, 50.1 mg, 0.37 mmol), and benzoic acid (38.8 mg, 0.32 mmol) in dichloromethane-THF (1:1, 2 mL) is added DCC (52.0 mg, 0.25 mmol). The reaction mixture is stirred at 22° C. for 19 hours. The crude product is purified on a silica gel chromatography with ethyl acetate-hexanes to provide a white solid (97.7 mg, 93.4% yield, ES+(m/z) 476.1 [M+H]).

reactant | 1-(5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-3-[4-(piperidin-4-yloxy)-phenyl]-urea | 0.22 mmol, 82.2 mg | C(C)(C)(C)C=1C=C(N(N1)C)NC(=O)NC1=CC=C(C=C1)OC1CCNCC1 | C20H29N5O2
reactant | 1-hydroxybenzotriazole | 0.37 mmol, 50.1 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | benzoic acid | 0.32 mmol, 38.8 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | DCC | 0.25 mmol, 52.0 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | dichloromethane THF | 2 mL | ClCCl.C1CCOC1
product | 1-(5-tert-Butyl-2-methyl-2H-pyrazol-3-yl)-3-{4-[1-(benzoyl)-piperidin-4-yloxy]phenyl}urea | 93.4% yield | C(C)(C)(C)C=1C=C(N(N1)C)NC(=O)NC1=CC=C(C=C1)OC1CCN(CC1)C(C1=CC=CC=C1)=O | C27H33N5O3
